US06949542B2
7-Methyl-4-(3-pyridin-2-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-methyl-2-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M42) (245 mg, 0.476 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (162 mg).

reactant | {5-methyl-2-[3-oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.476 mmol, 245 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C27H26F3N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Methyl-4-(3-pyridin-2-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=CC=C2)=O)C=C1C(F)(F)F | C22H16F3N3O
